US04221814
The procedure of Example 15 was repeated to react propyl 2-(4-carboxybenzamido)-4-aminobenzoate with propionic anhydride, and the reaction product was treated as in Example 15 except that the solvent for recrystallization was a mixture of dioxane and water. The product obtained was a 67% yield of propyl 2-(4-carboxybenzamido)-4-propionamidobenzoate having a melting point in the range of from 233° to 235° C.

reactant | propyl 2-(4-carboxybenzamido)-4-aminobenzoate | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)OCCC)C=CC(=C2)N)C=C1 | C18H18N2O5
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | propyl 2-(4-carboxybenzamido)-4-propionamidobenzoate | 67% yield | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)OCCC)C=CC(=C2)NC(CC)=O)C=C1 | C21H22N2O6
